* PMOS Transistors
M1 3 2 5 5 PMOS L=1U W=20U
M2 3 22 5 5 PMOS L=1U W=20U
M3 22 23 5 5 PMOS L=1U W=20U
M4 0 5 5 5 PMOS L=1U W=20U
M5 0 2 22 22 PMOS L=1U W=40U
M6 0 22 23 23 PMOS L=1U W=40U
M7 0 3 3 3 PMOS L=1U W=40U
M8 0 0 63 63 PMOS L=1U W=40U
* NMOS Transistors
M9 2 0 0 0 NMOS L=0.5U W=5U
M10 22 2 0 0 NMOS L=0.5U W=5U
M11 23 22 0 0 NMOS L=0.5U W=15U
M12 3 23 0 0 NMOS L=0.5U W=15U
M13 0 3 3 3 NMOS L=1U W=12U
M14 0 0 0 0 NMOS L=1U W=12U
* Current Source
I1 5 0 DC 150U
* Voltage Sources
VDD 3 0 DC 1.8V
? Missing component
VCMFB 63 0 DC 1.8V
* End of netlist
